US06894042B2
A solution of (3R)-methyl 1-[(S)-1-phenylethly]pyrrolidine-3-acetate (25.72 g, 104.0 mmol) in THF (265 mL) was cooled under N2 in a CO2/acetone bath. Next, ICH2Cl (22.7 mL, 312.0 mmol) was added, and the mixture stirred for 30 min. A solution of 2.0M lithium diisopropylamide (heptane/THF/ethylbenzene, 156 mL, 312 mmol) was added slowly over 30 min. The internal temperature reached a maximum of −40° C. during this addition. After 1 h, sat. NH4Cl (100 mL) was added and the mixture was allowed to warm to rt. The organic layer was separated, dried (MgSO4), filtered and concentrated. The resulting red-brown foam was chromatographed (300 g SiO2, CHCl3—MeOH—NH4OH (89:10:1) followed by CHCl3—MeOH (3:1). The product fractions were pooled and concentrated to afford (5R)-3-oxo-1-[(1S)-1-phenylethyl]-1-azoniabicyclo[3.2.1]octane chloride (10.12 g) as a tan foam (MS (ESI+) m/z 230.1 (M+H+). This foam (10.1 g, 38 mmol) was taken up in MeOH (500 mL), 10% Pd(C) (3.0 g) added and the mixture was hydrogenated (45 psi) overnight. The mixture was filtered and re-subjected to the reduction conditions (9.1 g, 10% Pd/C, 50 psi). After 5 h, TLC indicated the consumption of the (5R)-3-oxo-1-[(1S)-1-phenylethyl]-1-azoniabicyclo[3.2.1]octane chloride. The mixture was filtered, concentrated and triturated (minimal iPrOH) to give 3.73 g of (5R)-1-azabicyclo[3.2.1]octan-3-one hydrochloride, in two crops, as an off-white solid: [α]25D=33 (c 0.97, DMSO). MS (EI) m/z 125 (M+). (3R,5R)-1-azabicyclo[3.2.1]octan-3-amine dihydrochloride:

reactant | (3R)-methyl 1-[(S)-1-phenylethly]pyrrolidine-3-acetate | 104.0 mmol, 25.72 g | C1(=CC=CC=C1)[C@H](C)N1C[C@H](CC1)CC(=O)OC | C15H21NO2
reactant | ICH2Cl | 312.0 mmol, 22.7 mL | ICCl | CH2ClI
reactant | lithium diisopropylamide | 312 mmol, 2.0M, 156 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | NH4Cl | 100 mL | [NH4+].[Cl-]
solvent | THF | 265 mL | C1CCOC1 | C4H8O
product | (5R)-3-oxo-1-[(1S)-1-phenylethyl]-1-azoniabicyclo[3.2.1]octane chloride | 10.12 g | [Cl-].O=C1C[N+]2(CC[C@H](C1)C2)[C@@H](C)C2=CC=CC=C2 | InChI=1S/C15H20NO.ClH/c1-12(14-5-3-2-4-6-14)16-8-7-13(10-16)9-15(17)11-16;/h2-6,12-13H,7-11H2,1H3;1H/q+1;/p-1/t12-,13+,16?;/m0./s1
